US07572820B2
2-Butyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile
A mixture of 2-butyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.050 g, 0.19 mmol), 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole (0.054 g, 0.21 mmol), Cs2CO3 (0.067 g, 0.21 mmol) and CH3CN (4 mL) was stirred at 75° C. for 1.5 h. The mixture was diluted with EtOAc (25 mL), washed with water (15 mL), and brine (15 mL). Drying (MgSO4) and filtration was followed by concentration. The resulting material was treated with 10% Et2O in hexanes (10 mL) and stirred for 2 h. The resulting solid was filtered, rinsed with hexanes and dried to afford the title compound (0.070 g, 76%) as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ 8.30 (d, J=7.8 Hz, 1H), 8.23 (s, 1H), 8.06 (d, J=7.8 Hz, 1H), 8.03 (d, J=8.6 Hz, 1H), 7.84 (t, J=7.8 Hz, 1H), 7.75 (d, J=8.6 Hz, 1H), 6.58 (s, 1H), 5.88 (s, 2H), 2.92 (t, J=7.5 Hz, 2H), 1.74-1.66 (m, 2H), 1.44-1.35 (m, 2H), 0.90 (t, J=7.4 Hz, 3H); MS m/z 493 (M+H).

reactant | 2-butyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.19 mmol, 0.050 g | C(CCC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C14H13F3N2
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | 0.21 mmol, 0.054 g | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
reactant | Cs2CO3 | 0.21 mmol, 0.067 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CH3CN | 4 mL | CC#N | C2H3N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2-Butyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile | 0.070 g, 76% | C(CCC)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C24H18F6N4O
